US08859577B2
1-Benzyl-1′-isopropyl-1′H-spiro[piperidine-4,5′-pyrano[3,2-c]pyrazol]-7′(6′H)-one (81 mg, 0.22 mmol) was dissolved in 10 mL 1,2-dichloroethane. Added 1-chloroethyl chloroformate (60 mL, 0.54 mmol) was added and the mixture was stirred 1 h at reflux then cooled to room temperature. The volatiles were removed under reduced pressure and the residue taken up in 10 mL methanol and heated at reflux for 1 h. The mixture was cooled to ambient temperature and the volatiles were removed under reduced pressure. The residue was taken up in 50 mL saturated aqueous sodium bicarbonate and extracted 2×30 mL ethyl acetate. The combined organic extracts were dried over sodium sulfate, filtered and concentrated to yield 46 mg (86%) of 1′-isopropyl-1′H-spiro[piperidine-4,5′-pyrano[3,2-c]pyrazol]-7′(6′H)-one as a white solid. 1H NMR (400 MHz, CD3OD) δ ppm 7.20 (s, 1H), 5.13 (spt, 1H), 2.93 (m, 2H), 2.80 (dt, J=12.8, 4.0 Hz, 2H), 2.64 (s, 2H), 2.02 (m, 2H), 1.63 (m, 2H), 1.40 (m, 6H); m/z (M+1)=250.2

reactant | 1-Benzyl-1′-isopropyl-1′H-spiro[piperidine-4,5′-pyrano[3,2-c]pyrazol]-7′(6′H)-one | 0.22 mmol, 81 mg | C(C1=CC=CC=C1)N1CCC2(CC(C=3N(N=CC3O2)C(C)C)=O)CC1 | C20H25N3O2
reactant | 1-chloroethyl chloroformate | 0.54 mmol, 60 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 1′-isopropyl-1′H-spiro[piperidine-4,5′-pyrano[3,2-c]pyrazol]-7′(6′H)-one | 46 mg, 86% | C(C)(C)N1N=CC2=C1C(CC1(O2)CCNCC1)=O | C13H19N3O2
